Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:6].[O:1]=[C:2](/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.84009629949
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][H:8]>>[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.99313788426
[C:1](=[C:2][C:7]([H:8])([H:9])[H:10])([H:5])[H:6].[C:3]#[C:4]>>[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-5.89591475466
[H:11].[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.60873641876
[H:1][C:2][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.96355054252
[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])#[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([C:3])([H:6])[H:7],1.47158209518
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-3.98691252927
[H:18].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C@:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.580034727819998
[H:8].[O:1]=[C:2]([C:3](=[O:4])[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3](=[O:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.2379830296
[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:12]([H:13])[H:14],1.81426062831
[C:5]([H:6])=[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.35895518639
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4]([O:6][H:7])=[C:8]([H:9])[H:10].[H:5],1.28307195058
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16].[H:12],4.33423441072
[O:1]=[C:2]1[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]1([H:10])[H:11]>>[O:1]=[C:2][C:9]([O:8][C:5]([C:3][H:4])([H:6])[H:7])([H:10])[H:11],4.6050575683
[H:10].[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-2.26921139301
[H:3].[O:1]=[C:2]=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.23720832865
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[C:11][H:12])[C:14]([H:15])([H:16])[H:17],4.98849686804
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[O:12]>>[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[O:12]1,0.175330679269
[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.2443943866800025
[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]1([H:11])[H:12]>>[H:1][C:2][C:10]([C:7]([C:4]([O:3])([H:5])[H:6])([H:8])[H:9])([H:11])[H:12],4.55755088184
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],5.23575660687
[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])([H:5])[C:6],7.58462535947
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][O:3]/[C:4](=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:5],1.69481799663
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],1.22929825399
[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8].[H:9]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9],-3.26255931797
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9][H:10],4.02506617142
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8][H:9]>>[C:8][H:9].[O:1][C:2]([H:3])([H:4])[C:5]=[C:6]=[O:7],3.95466832856
[H:1][C:2][O:4][C:5]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])[O:4]/[C:5](=[C:6](/[H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.268386060269998
